US07521448B2
A 0.2M DMF solution of methyl 1-(4-hydroxyphenyl)-1H-benzimidazole-5-carboxylate (3.0 g, 9.8 mmol) with KOtBu (2.2 g, 19.6 mmol) was stirred at rt for 20 min. prior to treatment with NaI (9.8 mmol, 1.47 g) and p-(trifluoromethoxy) benzylbromide (1.88 mL, 11.2 mmol). The mixture was heated at 60° C. for 24 h. after which the mixture was concentrated in vacuo, and the residue purified by chromatography over silica gel eluting with 1:1 EtOAc:Hexane to afford methyl 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylate. 1H NMR (DMSO-d6, 400 MHz) δ 3.89 (s, 3H), 5.26 (s, 2H), 7.26-7.29 (m, 2H), 7.43 (d, 2H, J=7.6 Hz), 7.61-7.65 (m, 5H), 7.86 (dd, 1H, J=8.8 Hz, 1.6 Hz), 8.35 (d, 1H, J=1.2 Hz), 8.65 (s, 1H); MS (ES+): m/z 443 (MH+).

reactant | methyl 1-(4-hydroxyphenyl)-1H-benzimidazole-5-carboxylate | 9.8 mmol, 3.0 g | OC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)OC | C15H12N2O3
reactant | KOtBu | 19.6 mmol, 2.2 g | CC(C)(C)[O-].[K+]
reactant | NaI | 9.8 mmol, 1.47 g | [Na+].[I-]
reactant | p-(trifluoromethoxy) benzylbromide | 11.2 mmol, 1.88 mL | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
solvent | DMF | 0.2M | CN(C)C=O | C3H7NO
product | methyl 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylate | FC(OC1=CC=C(COC2=CC=C(C=C2)N2C=NC3=C2C=CC(=C3)C(=O)OC)C=C1)(F)F | C23H17F3N2O4
